US08754107B2
A solution of (2S)-2-((3R)-3-(4-(2-methoxyphenyl)piperidin-1-yl)-2-cyclopropylpyrrolidin-1-yl)-2-phenylethanol (preparation #26) (1.708 g, 4.06 mmol) in EtOH (25 mL) was hydrogenated under hydrogen at about 60 bar at about 60° C. in a H-cube™ apparatus using palladium hydroxide on carbon (20%) as a catalyst until all starting material was converted to product. The solvent was removed in vacuo to afford 1-((3R)-2-cyclopropylpyrrolidin-3-yl)-4-(2-methoxyphenyl)piperidine (1.23 g, 4.09 mmol) as an orange oil. RP-HPLC (Table 1, Method a) Rt 1.48 min; m/z: (M+H)+ 301.

reactant | (2S)-2-((3R)-3-(4-(2-methoxyphenyl)piperidin-1-yl)-2-cyclopropylpyrrolidin-1-yl)-2-phenylethanol | 4.06 mmol, 1.708 g | COC1=C(C=CC=C1)C1CCN(CC1)[C@H]1C(N(CC1)[C@H](CO)C1=CC=CC=C1)C1CC1 | C27H36N2O2
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | 1-((3R)-2-cyclopropylpyrrolidin-3-yl)-4-(2-methoxyphenyl)piperidine | 4.09 mmol, 1.23 g | C1(CC1)C1NCC[C@H]1N1CCC(CC1)C1=C(C=CC=C1)OC | C19H28N2O
